US07655624B2
3-Diethylphosphonopropionic Acid
40.3 mmol of benzyl 3-diethylphosphonopropionate (12.1 g) are dissolved in 100 ml of ethanol, and 2 g of catalyst (5% Pd/C) are added. After stirring under an H2 atmosphere for 4 h, the active carbon is filtered off, and the solvent is distilled out. The product results as a colourless oil which slowly solidifies to a colourless solid at room temperature. The product is slightly contaminated with ethyl 3-diethylphosphono-propionate which, where appropriate, can be transferred into the organic phase by shaking several times with water and hexane, and be removed.

reactant | benzyl 3-diethylphosphonopropionate | 40.3 mmol, 12.1 g | C(C)OP(=O)(OCC)CCC(=O)OCC1=CC=CC=C1 | C14H21O5P
reactant | ethyl 3-diethylphosphono-propionate | C(C)OP(=O)(OCC)CCC(=O)OCC | C9H19O5P
reactant | water | O | H2O
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Diethylphosphonopropionic Acid | C(C)OP(=O)(OCC)CCC(=O)O | C7H15O5P
